US07547691B2
(B). Preparation of 4-(2-cyano-1-hydroxyethyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester
To 4-(2-cyanoacetyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester (6.20 g, 23.3 mmol) dissolved in dry MeOH (95 mL) is added sodium borohydride (1.76 g, 46.6 mmol) portion wise over 10 minutes. The ice bath is removed after 1 hour and stirring is continued for 1 hour. The reaction mixture is concentrated, then dissolved in EtOAc (50 mL) and some MeOH. The mixture is washed with 1N HCl (25 mL). Saturated aqueous sodium chloride (25 mL) is added and the organic layer is dried over Na2SO4, then concentrated. The residue is dissolved in dichloromethane, loaded onto a silica gel column, and chromatographed. After pooling fractions and concentrating, the mixture is dissolved in MeOH and concentrated again to give the title compound as a slightly yellow oil (5.89 g, 95% yield).

reactant | 4-(2-cyanoacetyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | 23.3 mmol, 6.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C(CC#N)=O | C14H22N2O3
reactant | sodium borohydride | 46.6 mmol, 1.76 g | [BH4-].[Na+]
solvent | MeOH | 95 mL | CO | CH4O
product | 4-(2-cyano-1-hydroxyethyl)-4-methylpiperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C(CC#N)O | C14H24N2O3
